US06656971B2
5-(naphthalene-2-yloxy)-isophthalic acid dimethylester.
A solution of 5-hydroxyisophthalic acid dimethylester (208 mg, 1 mmol) and 2 naphthaleneboronic acid (172 mg, 1 mmol), Cu (OAc)2 (61 mg, 0.5 mmol), Et3N (0.16 ml, 1.2 mmol) in 10 ml methylenechloride was refluxed for overnight. The reaction mixture was purified by silica gel column eluted by 15% Teac in hexane to afford the product (76% yield).

reactant | 5-hydroxyisophthalic acid dimethylester | 1 mmol, 208 mg | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | naphthaleneboronic acid | 1 mmol, 172 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | Et3N | 1.2 mmol, 0.16 ml | CCN(CC)CC | C6H15N
solvent | methylenechloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-(naphthalene-2-yloxy)-isophthalic acid dimethylester | 76% yield | COC(C1=CC(C(=O)OC)=CC(=C1)OC1=CC2=CC=CC=C2C=C1)=O | C20H16O5
